US09388189B2
b) 3-Bromo-N-phenyl-1H-pyrrole-2-carboxamide
To a solution of 3-bromo-N-phenyl-1-(phenylsulfonyl)-1H-pyrrole-2-carboxamide (2.70 g of crude material) in 50 mL of methanol was added 15 mL of an aqueous 1N solution of sodium hydroxide and the mixture was stirred at room temperature during 1.5 h. At the end of this period, no starting material was detected and the reaction was elaborated in the following way: methanol was evaporated and a precipitate was formed which was filtered off and washed several times with water. The solid was dried in the vacuum oven to afford 1.14 g of the title compound that was used in the following step without any further purification.

reactant | 3-bromo-N-phenyl-1-(phenylsulfonyl)-1H-pyrrole-2-carboxamide | 2.70 g | BrC1=C(N(C=C1)S(=O)(=O)C1=CC=CC=C1)C(=O)NC1=CC=CC=C1 | C17H13BrN2O3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | 3-Bromo-N-phenyl-1H-pyrrole-2-carboxamide | 1.14 g | BrC1=C(NC=C1)C(=O)NC1=CC=CC=C1 | C11H9BrN2O
